US05834506
1-Bromo-5-tert-butyl-4-(2-methoxy-ethoxymethoxy)-2-methyl-benzene
A solution of 4-bromo-2-t-butyl-5-methylphenol from Example YY (32.8 g, 135 mmol) in THF (150 mL) was treated portionwise with NaH (6.5 g of a 60% dispersion in oil, 162 mmol), and the mixture was stirred at room temperature for 1 hour. To the suspension was added 2-methoxyethoxymethyl chloride (18 mL, 158 mmol) all at once, and the resulting mixture was stirred at room temperature overnight. H2O (200 mL) was added slowly, followed by EtOAc (200 mL). The organic layer was separated, washed with H2O, and dried (MgSO4). Concentration gave the title compound. 1H NMR (CDCl3) δ 1.31 (s, 9 H), 2.29 (s, 3 H), 3.36 (s, 3 H), 3.55 (m, 2 H), 3.78 (m, 2 H), 5.25 (s, 2 H), 7.02 (s, 1 H), 7.33 (s, 1 H).

reactant | 4-bromo-2-t-butyl-5-methylphenol | BrC1=CC(=C(C=C1C)O)C(C)(C)C | C11H15BrO
reactant | NaH | [H-].[Na+]
reactant | 2-methoxyethoxymethyl chloride | 158 mmol, 18 mL | COCCOCCl | C4H9ClO2
reactant | H2O | 200 mL | O | H2O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 1-Bromo-5-tert-butyl-4-(2-methoxy-ethoxymethoxy)-2-methyl-benzene | BrC1=C(C=C(C(=C1)C(C)(C)C)OCOCCOC)C | C15H23BrO3
